US07977332B2
Step C—Synthesis of [(6-chloro(3-pyridyl))methyl](2-chloroethyl)propylamine as an intermediate
A stirred solution of 1.0 gram (0.0044 mole) of 2 {[(6-chloro(3-pyridyl))methyl]propylamino}ethan-1-ol in two mL of chloroform was cooled to 0° C., and 2 mL (excess) of thionyl chloride was added dropwise. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature, and then it was heated to reflux where it was stirred for one hour. After this time the reaction mixture was concentrated and made basic with aqueous 10% sodium hydroxide. The mixture was then extracted multiple times with ethyl acetate. The combined extracts were then dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding about 1.0 gram of the subject compound.

reactant | {[(6-chloro(3-pyridyl))methyl]propylamino}ethan-1-ol | ClC1=CC=C(C=N1)CN(CCC)C(C)O | C11H17ClN2O
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | two mL | C(Cl)(Cl)Cl | CHCl3
product | [(6-chloro(3-pyridyl))methyl](2-chloroethyl)propylamine | about 1.0 gram | ClC1=CC=C(C=N1)CN(CCC)CCCl | C11H16Cl2N2
